US07968570B2
2-[3-(2,4-Difluoro-phenyl)-propyl]-2,3-dihydro-isoindol-1-one
2-[3-(2,4-Difluoro-phenyl)-prop-2-ynyl]-2,3-dihydro-isoindol-1-one was dissolved in EtOH (5 mL) and a small amount of 10% Pd/C was added. A hydrogen balloon was attached to the flask and the system was evacuated and flushed three times. The reaction was allowed to stir for twenty-two hours. The reaction mixture was filtered and concentrated to provide the title compound as a colourless oil (13.0 mg).

reactant | 2-[3-(2,4-Difluoro-phenyl)-prop-2-ynyl]-2,3-dihydro-isoindol-1-one | FC1=C(C=CC(=C1)F)C#CCN1C(C2=CC=CC=C2C1)=O | C17H11F2NO
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-[3-(2,4-Difluoro-phenyl)-propyl]-2,3-dihydro-isoindol-1-one | 13.0 mg | FC1=C(C=CC(=C1)F)CCCN1C(C2=CC=CC=C2C1)=O | C17H15F2NO
